US04056544
Yield: 45 g of 1-isopropylamino-4-m-toluidino-8-nitroanthaquinone.
If the procedure indicated above is followed but the 8-nitro compound is replaced by a mixtue of 1-isopropylamino-4-bromo-5- and -8-nitroanthraquinone and 180 g of p-anisidine are used instead of m-toluidine as the base, 48 g of a mixture consisting of 1-isopropylamino-4-p-anisidino-5-nitroanthraquinone and 1-isopropylamino-4-p-anisidine-8 -nitroanthraquinone are obtained after dilution with 300 ml of methanol and filtration at 10°.

reactant | p-anisidine | 180 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | 1-isopropylamino-4-p-anisidino-5-nitroanthraquinone | C(C)(C)NC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)[N+](=O)[O-])=O)NC1=CC=C(OC)C=C1 | C24H21N3O5
product | 1-isopropylamino-4-m-toluidino-8-nitroanthaquinone | C(C)(C)NC1=CC=C(C=2C(C3=CC=CC(=C3C(C12)=O)[N+](=O)[O-])=O)NC=1C=C(C=CC1)C | C24H21N3O4
